US04138581
Proceeding in a manner similar to that described above in part B of Example 151, 22 g. of 3-(acetoxymethyl)-4-(o-toluyloxy)phenyl tert-butylaminomethyl ketone hydrochloride was reduced in anhydrous methyl alcohol with 1.13 g. of sodium borohydride and the reduction product was treated with methanesulfonic acid to yield 3-(acetoxymethyl)-4-(o-toluyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol methanesulfonate as a white solid which melted at 116-118° C.(uncorr.).

reactant | 3-(acetoxymethyl)-4-(o-toluyloxy)phenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=C(C=CC=C1)C)COC(C)=O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methyl alcohol | CO | CH4O
product | 3-(acetoxymethyl)-4-(o-toluyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol methanesulfonate | CS(=O)(=O)OC(C1=CC(=C(C=C1)OC1=C(C=CC=C1)C)COC(C)=O)CNC(C)(C)C | C23H31NO6S
